US09126931B2
To 3-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-6H-benzo[b]naphtho[2,3-d]furan-11-one (15 mg, 0.032 mmol), CuI (6.2 mg, 0.032 mmol), NaI (9.6 mg, 0.064 mmol) and trans-N,N′-dimethylcyclohexane-1,2-diamine (0.01 ml) were added and the mixture was stirred for 48 hrs under nitrogen atmosphere. The reaction solution was diluted with ethyl acetate. The organic layer was washed with saturated brine, and then concentrated under reduced pressure. The resulting residues were purified by silica gel column (ethyl acetate/hexane) to obtain 8-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-3-iodo-6,6-dimethyl-6H-benzo[b]naphtho[2,3-d]furan-11-one (16 mg, 97%), which was then deprotected according to the method of A-14-2 to give the title compound.

reactant | 3-bromo-8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-6H-benzo[b]naphtho[2,3-d]furan-11-one | 0.032 mmol, 15 mg | BrC=1C=CC2=C(OC3=C2C(C2=CC=C(C=C2C3(C)C)OC[C@@H]3OC(OC3)(C)C)=O)C1 | C24H23BrO5
reactant | NaI | 0.064 mmol, 9.6 mg | [Na+].[I-]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.01 ml | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.032 mmol, 6.2 mg | [Cu]I
product | 8-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-3-iodo-6,6-dimethyl-6H-benzo[b]naphtho[2,3-d]furan-11-one | 16 mg, 97% | CC1(OC[C@@H](O1)COC=1C=C2C(C3=C(C4=C(O3)C=C(C=C4)I)C(C2=CC1)=O)(C)C)C | C24H23IO5
